US03962257
1-Methyl-3-(2-chlorophenacyl)piperidine, 24.8 g, was dissolved in 100 ml of diethyl ether. To the resulting solution was added an excess of ethereal hydrogen chloride solution. A heavy oil separated. The solvent was distilled under reduced pressure and acetone was added to the residue. The resulting mixture was heated on a steam-bath until the residue had crystallized. The mixture was cooled, filtered, and thoroughly washed with diethyl ether, giving 26.7 g of 1-methyl-3-(2-chlorophenacyl)piperidine hydrochloride, mp 136°-138°. A small portion of the salt was recrystallized from acetone to give an analytical sample, mp 135.5°-138°, from which the following elemental analysis was obtained:

reactant | 1-Methyl-3-(2-chlorophenacyl)piperidine | CN1CC(CCC1)CC(=O)C1=C(C=CC=C1)Cl | C14H18ClNO
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-methyl-3-(2-chlorophenacyl)piperidine hydrochloride | 26.7 g | Cl.CN1CC(CCC1)CC(=O)C1=C(C=CC=C1)Cl | InChI=1S/C14H18ClNO.ClH/c1-16-8-4-5-11(10-16)9-14(17)12-6-2-3-7-13(12)15;/h2-3,6-7,11H,4-5,8-10H2,1H3;1H
